US08809369B2
To a stirred solution of tetrachlorosilane (5.3 mL, 46.3 mmol), sodium azide (5.6 g, 87 mmol) in dry acetonitrile (20 mL) was added 2-(3-cyclopropylcarbamoyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (1.3 g, 3.3 mmol) at room temperature. Then the mixture solution was stirred at room temperature for over night. LC/MS showed that reaction finished completely. The reaction mixture was poured into ice-cold saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate (150 mL×2), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company) (30% ethyl acetate/hexanes) afforded 2-[3-(1-cyclopropyl-1H-tetrazol-5-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (908.2 mg, 66%) as a white solid: MS (ESI) M+1=418.1.

reactant | tetrachlorosilane | 46.3 mmol, 5.3 mL | Cl[Si](Cl)(Cl)Cl | Cl4Si
reactant | sodium azide | 87 mmol, 5.6 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-(3-cyclopropylcarbamoyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 3.3 mmol, 1.3 g | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)C(NC1CC1)=O)(C)C | C24H28N2O3
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-[3-(1-cyclopropyl-1H-tetrazol-5-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 908.2 mg, 66% | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)C1=NN=NN1C1CC1)(C)C | C24H27N5O2
